US06114537
A mixture of 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one (300 mg, 1.213 mmol) and pyrazinecarbonitrile (319 mg, 3.03 mmol) in 8 mL of dicloromethane was stirred at room temperature for 36 hr. The precipitate was filtered and washed with dichloromethane to give 0.28 g (91%) of 3-(2-pyrazinyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole as a white solid; 1H NMR (CDCl3)δ 7.32 (t, 1H, ArH), 7.50 (t, 1H, ArH), 7.83 (d, 1H, ArH), 8.67 (d, 1H, ArH), 8.87 (br.d, 2H, py-H), 9.59 (s, 1H, py-H); mp 255-256.5° C.

reactant | 2-butyl-1,2,4-thiadiazolo[4,5-a]benzimidazole-3(2H)-one | 1.213 mmol, 300 mg | C(CCC)N1SC2=NC3=C(N2C1=O)C=CC=C3 | C12H13N3OS
reactant | pyrazinecarbonitrile | 3.03 mmol, 319 mg | N1=C(C=NC=C1)C#N | C5H3N3
solvent | dicloromethane | 8 mL | ClCCl | CH2Cl2
product | 3-(2-pyrazinyl)-1,2,4-thiadiazolo[4,5-a]benzimidazole | 0.28 g, 91% | N1=C(C=NC=C1)C1=NSC2=NC3=C(N21)C=CC=C3 | C12H7N5S
